US08703907B2
As one example, CCK8 (Asp-Tyr-Met-Gly-Trp-Met-Asp-Phe-NH2) is synthesized on solid support using Rink resin using methods known in the art, for example as described in U.S. Pat. No. 4,769,445 (incorporated herein by reference). Commercial Fmoc-Phe-Rink amide-MBHA resin is pre-swollen in DMF for 30 min, then suspended and shaken in piperidine/DMF (1:4 by volume, 50 ml) for 30 min at room temperature to remove the Fmoc group. The product is isolated by filtration and washed (3×50 ml each) with DCM, 5% N,N-diisopropylethylamine (DIEA) in DCM, and DCM to give the free base of Phe-Rink amide-MBHA-Resin. Fmoc-Asp(OtBu)-OH (1.23 g, 3 mmol), DCC (0.62 g, 3 mmol), and HOBt (0.69 g, 4.5 mmol) are dissolved in 50 ml of 4:1 by volume DCM/DMF with stirring at 0° for 1 hour. Phe-Rink amide-MBHA resin (1 meq) is suspended in the filtered reaction mixture (precipitated DCU removed) and shaken for 2 to 15 hours at room temperature. The Fmoc-Asp-(OtBu)-Phe-Rink amide-MBHA resin product is collected by filtration and washed with DCM. The Fmoc-Asp-(O′Bu)-Phe-Rink amide-MBHA resin is suspended and shaken in piperidine/DMF (1:4 by volume, 50 ml) for 3 min at room temperature and then a second time for 7 min to remove the Fmoc group. The product is isolated by filtration and washed (3×50 ml each) with DMF and DCM to give the free base of Asp-(OtBu)-Phe-Rink amide-MBHA resin. Fmoc-Met-OH (1.12 g, 3 mmol), DCC (0.62 g, 3 mmol), and HOBt (0.69 g, 4.5 mmol) are dissolved in 50 ml of 4:1 by volume DCM/DMF with stirring at 0° for 1 hour. Asp-(OtBu)-Phe-Rink amide-MBHA resin (1 meq) is suspended in the filtered reaction mixture (precipitated DCU removed) and shaken for 2 to 15 hours at room temperature. The Fmoc-Met-Asp-(OtBu)-Phe-Rink amide-MBHA resin product is collected by filtration and washed with DCM and DMF. The Fmoc-Met-Asp-(O′Bu)-Phe-Rink amide-MBHA resin is deprotected and coupled sequentially with Fmoc-Trp-OH (1.28 g, 3 mmol), Fmoc-Gly-OH (0.89 g, 3 mmol), Fmoc-Met-OH (1.12 g, 3 mmol), Fmoc-Tyr-OH (1.37 g, 3 mmol), and Boc-Asp(OtBu)-OH (1.23 g, 3 mmol) to provide Boc-Asp(OtBu)-Tyr-Met-Gly-Trp-Met-Asp(OtBu)-Phe-Rink amide-MBHA resin. The Boc-Asp(OtBu)-Tyr-Met-Gly-Trp-Met-Asp(OtBu)-Phe-Rink amide-MBHA resin is washed with DCM (3×50 ml), suspended and shaken in a mixture of O-(9-fluorenylmethyl)N-phenyl N-chloromethylcarbamate (10 equivalents) and triethylamine (1 equivalent) in DCM. The resin is isolated by filtration and washed (3×50 ml each) with DCM. The resulting Boc-Asp(OtBu)-Tyr(OX)-Met-Gly-Trp-Met-Asp(OtBu)-Phe-Rink amide-MBHA resin is cleaved from the resin and deblocked by shaking with a mixture of 8% phenol, 5% thioanisole, 5% water, and 3% 3,6-dioxa-1,8-octanedithiol in trifluoroacetic acid (10 mL/g resin) for 4 hours. The resin is removed by filtration, and the peptide is precipitated by addition of 10 volumes of ether. The crude peptide is purified by reversed-phase HPLC.

reactant | Asp-Tyr-Met-Gly-Trp-Met-Asp-Phe-NH2 | N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCSC)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C49H62N10O13S2
reactant | Fmoc-Phe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H21NO4
solvent | DMF | CN(C)C=O | C3H7NO
solvent | piperidine DMF | 50 ml | N1CCCCC1.CN(C)C=O
product | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
